US06777578B2
N-(3,4,5Trimethoxybenzoyl)-morpholine (8a)
Morpholine (0.8 mL) was slowly added to a solution composed of toluene (10 mL) and 3,4,5-trimethoxybenzoyl chloride (1.1 g). The reaction was accompanied by evolution of heat and precipitation of morpholine hydrochloride. After 3 hours, the solution was filtered and concentrated in vacuo to afford a white solid which was recrystallized from ethanol to afford colorless needles (1.2 g, 86%): m.p. 119.8-120.7° C., lit3c m.p. 120-121° C.; EIMS m/z 281 (M+), 266, 195; 1H NMR δ 6.63 (2H, s, H2,6), 3.87 (6H, s, OCH3×2), 3.86 (3H, s, OCH3), 3.70 (8H, bs, CH2×4).

reactant | Morpholine | 0.8 mL | N1CCOCC1 | C4H9NO
reactant | 3,4,5-trimethoxybenzoyl chloride | 1.1 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3,4,5Trimethoxybenzoyl)-morpholine | 1.2 g, 86% | COC=1C=C(C(=O)N2CCOCC2)C=C(C1OC)OC | C14H19NO5
